US05807859
10-Amino-5H,10H-imidazo[1,2-a]indeno-[1,2-e]pyrazin-4-one may be prepared in the following way: a solution of 12.9 g of 10-acetamido-5H,10H-imidazo-[1,2-a]indeno[1,2-e]pyrazin-4-one in 650 ml of aqueous 2N hydrochloric acid solution is heated to boiling for 2 hours, cooled and then concentrated to dryness under reduced pressure (15 mmHg; 2 kPa) at 80° C. 4 g (out of the 14.8 g obtained in total) are dissolved in 250 ml of distilled water and the solution is stirred for 16 hours at a temperature in the region of 20° C. The crystals formed are isolated by filtration, washed successively with 25 ml of distilled water and 25 ml of methanol and then air-dried at a temperature in the region of 20° C. The product obtained (3.5 g) is stirred in suspension for 10 minutes in 100 ml of boiling methanol and, after cooling and storing for 1 hour at 5° C., is isolated by filtration, washed with 20 ml of chilled methanol and then dried under reduced pressure (1 mmHg; 0.13 kPa) at 100° C. 2.1 g of 10-amino-5H,10H-imidazo[1,2-a]indeno-[1,2-e]pyrazin-4-one hydrochloride are thus obtained, decomposing without melting at about 240° C. (NMR spectrum: (200 MHz; DMSO-d6 ; δ in ppm): 5.70 (broad s, 1H: CH--N+--Cl--); 7.48 and 7.58 (2t, J=7.5 Hz, 1H each: --H7 and --H8); 7.72 and 8.76 (2s, 1H each: --H of the imidazole); 7.98 and 8.09 (2d, J=7.5 Hz, 1H each: --H6 and --H9); 9.47 (mult., 3H: N+H3Cl--); 12.80 (mult., 1H: --NH--)).

reactant | 10-Amino-5H,10H-imidazo[1,2-a]indeno-[1,2-e]pyrazin-4-one | NC1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C13H10N4O
reactant | 10-acetamido-5H,10H-imidazo-[1,2-a]indeno[1,2-e]pyrazin-4-one | 12.9 g | C(C)(=O)NC1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C15H12N4O2
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | water | 250 ml | O | H2O
solvent | methanol | 100 ml | CO | CH4O
product | 10-amino-5H,10H-imidazo[1,2-a]indeno-[1,2-e]pyrazin-4-one hydrochloride | 2.1 g | Cl.NC1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | InChI=1S/C13H10N4O.ClH/c14-9-7-3-1-2-4-8(7)10-11(9)17-6-5-15-12(17)13(18)16-10;/h1-6,9H,14H2,(H,16,18);1H
